US09169248B2
Synthesis of N-[5-tert-butyl-1-(4-fluorophenyl)pyrazol-4-yl]-2-[2-methyl-4-(trifluoromethyl)imidazol-1-yl]propanamide
To a solution of 5-tert-butyl-1-(4-fluorophenyl)pyrazol-4-amine (0.03 g, 0.13 mmol) in DMF (1.0 mL) was added 2-[2-methyl-4-(trifluoromethyl)imidazol-1-yl]propanoic acid (0.029 g, 0.13 mmol), followed by diisopropylethylamine (0.033 g, 0.26 mmol) and HATU (0.054 g, 0.14 mmol). After stirring at room temperature for 1 h, the reaction was diluted with water and the aqueous layer was extracted with ethyl acetate (2×5 mL). The combined organic layers were washed with brine, dried (Na2SO4), filtered, and concentrated in vacuo. The resulting crude product was purified by reverse phase HPLC (C18 column, acetonitrile-H2O with 0.1% TFA as eluent) to give the title compound as a white solid (0.0145 g, 0.034 mmol, 25%). 1H NMR (400 MHz, CDCl3) δ 7.77 (s, 1H), 7.45 (q, J=1.2 Hz, 1H), 7.33-7.24 (m, 2H), 7.16-7.07 (m, 2H), 6.89 (s, 1H), 4.90 (d, J=7.3 Hz, 1H), 2.47 (s, 3H), 1.86 (d, J=7.3 Hz, 3H), 1.11-1.03 (m, 9H); MS: (ES) m/z calculated for C21H23F4N5O [M+H]+ 438.2, found 438.0.

reactant | 5-tert-butyl-1-(4-fluorophenyl)pyrazol-4-amine | 0.13 mmol, 0.03 g | C(C)(C)(C)C1=C(C=NN1C1=CC=C(C=C1)F)N | C13H16FN3
reactant | 2-[2-methyl-4-(trifluoromethyl)imidazol-1-yl]propanoic acid | 0.13 mmol, 0.029 g | CC=1N(C=C(N1)C(F)(F)F)C(C(=O)O)C | C8H9F3N2O2
reactant | diisopropylethylamine | 0.26 mmol, 0.033 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HATU | 0.14 mmol, 0.054 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N-[5-tert-butyl-1-(4-fluorophenyl)pyrazol-4-yl]-2-[2-methyl-4-(trifluoromethyl)imidazol-1-yl]propanamide | 0.034 mmol, 0.0145 g, 25% | C(C)(C)(C)C1=C(C=NN1C1=CC=C(C=C1)F)NC(C(C)N1C(=NC(=C1)C(F)(F)F)C)=O | C21H23F4N5O
